US07405304B2
Trimethylborate (1.0 ml, 8.75×10−3 mol) is added dropwise to a freshly prepared solution of p-fluorophenyl magnesium bromide (18.4 ml, 1 M, 1.84×10−2 mol) in tetrahydrofuran (30 ml) under argon at −78° C. The mixture is warmed to room temperature and stirred overnight. The solution is cooled to −78° C. and excess grignard reagent is destroyed by the dropwise addition of methanol until no more effervescence is observed. The solvents are removed in vacuo and the residue dissolved in diethyl ether and washed with water. The organic layer is dried (MgSO4), filtered and the solvents removed in vacuo to give methyl di(p-fluorophenyl)borinate (1.93 g, 89%) as a solid which was used without further purification.

reactant | Trimethylborate | 8.75×10−3 mol, 1.0 ml | COB(OC)OC | C3H9BO3
reactant | p-fluorophenyl magnesium bromide | 1.84×10−2 mol, 1 M, 18.4 ml | FC1=CC=C(C=C1)[Mg]Br
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | methyl di(p-fluorophenyl)borinate | 1.93 g, 89% | FC1=CC=C(C=C1)B(OC)C1=CC=C(C=C1)F | C13H11BF2O
